US07745475B2
3-(Benzyloxy)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzoic acid
Lithium hydroxide monohydrate (12.14 g, 0.289 mol) in water (100 mL) was added to a solution of methyl 3-(benzyloxy)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzoate (62 g, 0.131 mol) in THF (300 mL) and warmed to 43° C. The reaction was stirred for 16 hours, the THF removed in vacuo and the resultant mixture acidified to pH 5 with 10% w/v citric acid. This was extracted with ethyl acetate (2×300 mL) and the combined organic layers were dried (MgSO4), filtered and evaporated to afford the title compound (60.2 g).

reactant | Lithium hydroxide monohydrate | 0.289 mol, 12.14 g | O.[OH-].[Li+]
reactant | methyl 3-(benzyloxy)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzoate | 0.131 mol, 62 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)O[C@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C27H40O5Si
solvent | water | 100 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 3-(Benzyloxy)-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzoic acid | 60.2 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)O[C@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C26H38O5Si
